US05258382
Preparation of 2-(3,4-dichlorobenzyl)-1,3-dioxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-4-carboxylic acid benzyl ester:
A mixture of 2-(2-trichloroacetylpyrrol-1-yl)malonic acid dibenzyl ester (30.0 g), 3,4 dichlorobenzylamine (11.7 g) and triethylamine (18.4 g, 25.0 ml) in anhydrous dimethylformamide (70 ml) was stirred under the stream of nitrogen at 70° C. for 2 hours. After cooling, the reaction mixture was poured into 5% hydrochloric acid and extracted with ethyl acetate. The extracts were dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was chromatographed on silica gel using n-hexane/ethyl acetate (3:1) as the eluent. Fractions containing the title compound were pooled and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate/n-hexane to give the title compound (16.0 g, 59.5%) as colorless crystals, mp 104°-106° C.

reactant | 2-(2-trichloroacetylpyrrol-1-yl)malonic acid dibenzyl ester | 30.0 g | C(C1=CC=CC=C1)OC(C(C(=O)OCC1=CC=CC=C1)N1C(=CC=C1)C(C(Cl)(Cl)Cl)=O)=O | C23H18Cl3NO5
reactant | 3,4 dichlorobenzylamine | 11.7 g | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
reactant | triethylamine | 25.0 ml, 18.4 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 2-(3,4-dichlorobenzyl)-1,3-dioxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-4-carboxylic acid benzyl ester | 16.0 g, 59.5% | C(C1=CC=CC=C1)OC(=O)C1C(N(C(C=2N1C=CC2)=O)CC2=CC(=C(C=C2)Cl)Cl)=O | C22H16Cl2N2O4
